US04002647
1,5-dimethyl-4-heptenyl p-toluenesulfonate and 6-hydroxy-2,3-dihydrobenzofuran are reacted to produce 6-[(1,5-dimethyl-4-heptenyl)-oxy]-2,3-dihydrobenzofuran of boiling point (bulb-tube) 120° C./0.02 mmHg; nD20 = 1.5226; and

reactant | 1,5-dimethyl-4-heptenyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC(CCC=C(CC)C)C)C | C16H24O3S
reactant | 6-hydroxy-2,3-dihydrobenzofuran | OC1=CC2=C(CCO2)C=C1 | C8H8O2
product | 6-[(1,5-dimethyl-4-heptenyl)-oxy]-2,3-dihydrobenzofuran | CC(CCC=C(CC)C)OC1=CC2=C(CCO2)C=C1 | C17H24O2
